US08293917B2
To a solution of 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-3-oxo-1-(3-trifluoromethyl-phenyl)-propyl]-amide (80 mg, 0.18 mmol) in methanol (3 mL) is added sodium borohydride (50 mg, 1.3 mmol). After 16 hours, the crude reaction mixture is purified directly by flash chromatography on silica gel (eluted with 4 to 10% MeOH/CH2Cl2) to afford 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-3-hydroxy-1-(3-trifluoromethyl-phenyl)-propyl]-amide as a white solid (36 mg, 45%).

reactant | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-3-oxo-1-(3-trifluoromethyl-phenyl)-propyl]-amide | 0.18 mmol, 80 mg | O=CC[C@@H](C1=CC(=CC=C1)C(F)(F)F)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C21H17ClF3N3O2
reactant | sodium borohydride | 1.3 mmol, 50 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-3-hydroxy-1-(3-trifluoromethyl-phenyl)-propyl]-amide | 36 mg, 45% | OCC[C@@H](C1=CC(=CC=C1)C(F)(F)F)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C21H19ClF3N3O2
